US06066639
A solution of dimethyl N-{4-[2-(amino-4-hydroxy-5,6,7,8-tetrahydropyrido-[2,3-d]pyrimidin-6-yl)ethyl]pyrrol-2-ylcarbonyl}-L-glutamate (92 mg, 0.2 mmol) in 1N sodium hydroxide (1 mL) was stirred at room temperature for 3 days, then acidified to pH 5 by addition of glacial acetic acid. The white solid was collected by filtration, washed with water, and dried in vacuo to give N-{4-[2-(amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrrol-2-ylcarbonyl}-L-glutamic acid (68 mg, 79%) as a white solid: 1H NMR (DMSO-d6) δ 11.44 (s, 1H), 9.84 (br s, 1H), 7.79 (d, 1H, J=7.7 Hz), 6.64 (s, 2H), 6.23 (s, 1H), 5.97 (s, 2H), 4.27 (s, 1H), 3.16 (brd, 1H, J=9.6 Hz), 2.74 (brt, 1H, J=10.2 Hz), 2.45-2.18 (m, 5H), 1.95-1.75 (m, 3H), 1.65-1.40 (m, 3H). HR FAB MS calcd for C19H25N6O6 433.1836 (M+ +H), found 433.1866.

reactant | dimethyl N-{4-[2-(amino-4-hydroxy-5,6,7,8-tetrahydropyrido-[2,3-d]pyrimidin-6-yl)ethyl]pyrrol-2-ylcarbonyl}-L-glutamate | 0.2 mmol, 92 mg | NC=1N=C(C2=C(N1)NCC(C2)CCC=2C=C(NC2)C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)O | C21H28N6O6
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
product | N-{4-[2-(amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrrol-2-ylcarbonyl}-L-glutamic acid | 68 mg, 79% | NC=1N=C(C2=C(N1)NCC(C2)CCC=2C=C(NC2)C(=O)N[C@@H](CCC(=O)O)C(=O)O)O | C19H24N6O6
